US08084448B2
A. 5-[2-Benzyloxy-4-(1H-pyrazol-4-yl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one
A mixture of 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (100 mg, 0.225 mmol), 4-pyrazoleboronic acid (87 mg, 0.45 mmol), resin-bound PPh3Pd (346 mg, loading 0.13 mmol/g) and aqueous Na2CO3 (0.45 mL of a 2M solution) in DME (3 mL) is heated in a microwave apparatus at 110° C. for 30 min. The mixture is filtered and the solvent removed under reduced pressure. The residue is purified by reverse phase MPLC to give the title compound.

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.225 mmol, 100 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(NS1(=O)=O)=O | C15H13IN2O4S
reactant | 4-pyrazoleboronic acid | 0.45 mmol, 87 mg | N1N=CC(=C1)B(O)O | C3H5BN2O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 3 mL | COCCOC | C4H10O2
product | 5-[2-Benzyloxy-4-(1H-pyrazol-4-yl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C=1C=NNC1)N1CC(NS1(=O)=O)=O | C18H16N4O4S
